US08492378B2
2-[[4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]-1H-pyrazol-1-yl]methyl]benzonitrile
In the same manner as in Example 1 and using 2-methyl-5-[3-(1H-pyrazol-4-yl)-1-benzofuran-5-yl]-1,3,4-oxadiazole instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and using 2-(bromomethyl)benzonitrile instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 91%) was obtained as colorless crystals.

reactant | 2-methyl-5-[3-(1H-pyrazol-4-yl)-1-benzofuran-5-yl]-1,3,4-oxadiazole | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C=2C=NNC2)C1 | C14H10N4O2
reactant | 2-(bromomethyl)benzonitrile | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
product | 2-[[4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]-1H-pyrazol-1-yl]methyl]benzonitrile | yield 91% | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C=2C=NN(C2)CC2=C(C#N)C=CC=C2)C1 | C22H15N5O2
